datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCC1)=[O:62].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([C:10]1([C:20]([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)CCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12"
CC(C)(C)[NH2:10].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC(C)(C)[NH2+:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]1 10=20
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C-:10]([C:61](C)=[O:62])[C:71](C)=[O:72]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10](C)([C:61](C)=[O:62])[C:71](C)=[O:72])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CCC[NH:10]2)C=C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([NH+:10]2CCC[C@H]2C(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10=20
"C1=CC=C(C2CCC[NH:10]2)C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([NH+:10]2CCCC2C2=CC=CC=C2)[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CC[C:10]#[C:11][N:12](CC1=CC=CC=C1)[S:63](C1=CC=C(C)C=C1)(=[O:64])=[O:74].N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC[C:10](=[C:11]=[N+:12](CC1=CC=CC=C1)[S:63](C1=CC=C(C)C=C1)(=[O:64])=[O:74])[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:62][C:11]1=[CH:10]CCC[N:12]21.C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1>>C1=CC2=C(C=C1)[S:62][C:11]1=[N+:12]2CCC[CH:10]1[CH2:20][C:21]1=[C:22]([O-:23])[O:33]CCC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.C[C:63]([NH:12][C:11](C1=CCCCC1)=[CH2:10])=[O:64]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11](C2=CCCCC2)=[NH+:12][C:63](C)=[O:64])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.C1C[N:10]=[C:11]2[N:12](C1)CCC[NH:62]2>>C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([N:10]3CCC[N+:12]4=[C:11]3[NH:62]CCC4)[C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1 10,11=10,20;12=11,12"
"CC(C)(C)[N:62]1[P:11]([H:10])[N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC(C)(C)[N:62]1[P+:11][N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2.CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P:11]([H:10])[N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1>>C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH:20]([H:10])[C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P+:11][N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1 10,11=10,20"
"C1=CC=C([S:61]([CH-:10][S:81](C2=CC=CC=C2)(=[O:82])=[O:92])(=[O:62])=[O:72])C=C1.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25]>>C[C:21]([CH:20]([CH:10]([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92])[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](N)[O-:25] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC1(C)[O:62][C:11]([O-:12])=[C:10]([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC1(C)[O:62][C:11](=[O:12])[C:10]([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.C[N+:21](C)=[CH2:20]>>CC(C)(C)[C:11]([CH2:10][CH2:20][N:21](C)C)=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
